US06169086A
1) Preparation of 3-[4-(3-Chlorophenyl)-1-piperazinyl]-1-[1-(3-chloro-2-pyridyl)-5-methyl-4-pyrazolyl]-1-propanone
4-Acetyl-1-(3-chloro-2-pyridyl)-5-methylpyrazole (648 mg), 1-(3-chlorophenyl)pyrazole hydrochloride (641 mg), and p-formaldehyde (1.65 g) were reacted, and the product was worked up in the same manner as in Example 5-(4) to yield 439 mg of the title compound.

reactant | 4-Acetyl-1-(3-chloro-2-pyridyl)-5-methylpyrazole | 648 mg | C(C)(=O)C=1C=NN(C1C)C1=NC=CC=C1Cl | C11H10ClN3O
reactant | 1-(3-chlorophenyl)pyrazole hydrochloride | 641 mg | Cl.ClC=1C=C(C=CC1)N1N=CC=C1
product | 3-[4-(3-Chlorophenyl)-1-piperazinyl]-1-[1-(3-chloro-2-pyridyl)-5-methyl-4-pyrazolyl]-1-propanone | 439 mg | ClC=1C=C(C=CC1)N1CCN(CC1)CCC(=O)C=1C=NN(C1C)C1=NC=CC=C1Cl | C22H23Cl2N5O
